US05550122
f) 3-Amino-6,9-dimethylpyrido[2,3-b][1,5]benzoxazepin-5(6H)-one
To a suspension of 3-nitro-6,9-dimethylpyrido[2,3-b][1,5]benzoxazepin-5(6H)-one (1.6 g, 5.6 mmol) in acetic acid (30 ml) was added a solution of stannous chloride dihydrate (10 g, 44 mmol) in conc. hydrochloric acid (13 ml). After stirring the mixture for 3 hours, the precipitated product was filtered and washed with ether. The product was then dissolved in water, basified with 2N sodium hydroxide, extracted with ether and ethyl acetate, dried (anhydrous magnesium sulfate), and concentrated. Crystallization from ethanol/hexane provided 0.82 g (57% of theory) of pure product as tan needles, m.p. 191°-193° C.

reactant | 3-nitro-6,9-dimethylpyrido[2,3-b][1,5]benzoxazepin-5(6H)-one | 5.6 mmol, 1.6 g | [N+](=O)([O-])C1=CC2=C(OC3=C(N(C2=O)C)C=CC(=C3)C)N=C1 | C14H11N3O4
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 13 ml | Cl | ClH
product | 3-Amino-6,9-dimethylpyrido[2,3-b][1,5]benzoxazepin-5(6H)-one | NC1=CC2=C(OC3=C(N(C2=O)C)C=CC(=C3)C)N=C1 | C14H13N3O2
